US20010049381A1
1,2-Diphenyl-3-pentanol
A solution of 2-(bromoethyl)benzene (1.73 g; 9.33 mmol) in diethylether (10 ml) was added to a stirred slurry of magnesium turnings (250 mg; 10.18 mmol) in 5 ml of ether. The reaction was initiated with a heat gun, and after the addition was complete the mixture was heated on an oil bath for 30 min. 3-Phenyl-1-propanal (1.25 g; 9.33 mmol) was added in 10 ml of ether, and reflux was continued for 1 hour. The reaction was cooled and quenched with saturated ammonium chloride, extracted into 2× ethyl acetate, and the combined organic portions were dried and concentrated. Chromatographic purification on a silica gel column (10% ethyl acetate in hexane) delivered 1.42 g(63%) of the diphenyl alcohol. 1H NMR (300 MHz, CDCl3): δ 1.84 (m, 4H); 2.61-2.76 (m, 4H); 3.65 (m, 1H); 7.19-7.29 (m, 10H).

reactant | 2-(bromoethyl)benzene | 9.33 mmol, 1.73 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | magnesium | 10.18 mmol, 250 mg | [Mg] | Mg
reactant | 3-Phenyl-1-propanal | 9.33 mmol, 1.25 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | diethylether | 10 ml | C(C)OCC | C4H10O
reactant | ether | 5 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
product | 1,2-Diphenyl-3-pentanol | C1(=CC=CC=C1)CC(C(CC)O)C1=CC=CC=C1 | C17H20O
